US06362211B1
(c) 8a-(1H-Imidazol-4-yl)-1,3a,8,8a-tetrahydro-2H-cyclopenta[a]inden-3-one
Titanium tetrachloride (5.5 ml) was added dropwise to a stirred suspension of zinc powder (6.5 g) in dry tetrahydrofuran (300 ml) with ice cooling under a nitrogen atmosphere. The mixture was heated at reflux for one hour. 3-[2-(1H-Imidazol-4-yl)-1-oxoindan-2-yl]propionic acid ethyl ester (3.0 g) in 100 ml of dry tetrahydrofuran was then added to the refluxing mixture during 4 hours. After a further 2 hour reflux period, the reaction mixture was cooled to room temperature, quenched by cautious addition of 30 ml of methanol and the pH of the mixture was adjusted to 8-9 with aqueous sodium hydroxide solution. The slurry was filtered and the filtrate was evaporated to dryness under reduced pressure. The residue was stirred in aqueous hydrochloric acid at room temperature for 2 hours. Work-up of the reaction mixture gave the crude product, which was purified by flash chromatography using methylene chloride/methanol (97:3) as eluent. The yield was 1.2 g, m.p. 234-236° C.

reactant | 3-[2-(1H-Imidazol-4-yl)-1-oxoindan-2-yl]propionic acid ethyl ester | 3.0 g | C(C)OC(CCC1(C(C2=CC=CC=C2C1)=O)C=1N=CNC1)=O | C17H18N2O3
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | Titanium tetrachloride | 5.5 ml | [Ti](Cl)(Cl)(Cl)Cl
catalyst | zinc | 6.5 g | [Zn] | Zn
product | 8a-(1H-Imidazol-4-yl)-1,3a,8,8a-tetrahydro-2H-cyclopenta[a]inden-3-one | N1C=NC(=C1)C12C(C=3C=CC=CC3C1)C(CC2)=O | C15H14N2O
